US06133264
10 Grams of 5-acetoxy-8-hydroxy-2(1H)-quinolinone was dissolved in 100 ml of DMF, to this solution was added 14 g of potassium carbonate and 9 ml of allyl bromide, stirred at room temperature for 8 hours. Under ice-cooling and stirring conditions, the reaction mixture was acidified by adding hydrochloric acid, this mixture was diluted by adding 200 ml of water. The mixture was extracted with 500 ml of ethyl acetate, the extract was washed with water, dried over anhydrous magnesium sulfate, then concentrated to dryness under reduced pressure. The residue thus obtained was recrystallized from a mixed solvent of ethyl acetate-n-hexane, there was obtained 9.8 g of 5-acetoxy-8-allyloxy-2(1H)-quinolinone as pale yellow needle-like crystals.

reactant | 5-acetoxy-8-hydroxy-2(1H)-quinolinone | C(C)(=O)OC1=C2C=CC(NC2=C(C=C1)O)=O | C11H9NO4
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 9 ml | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 5-acetoxy-8-allyloxy-2(1H)-quinolinone | 9.8 g | C(C)(=O)OC1=C2C=CC(NC2=C(C=C1)OCC=C)=O | C14H13NO4
